Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I don't want to be here..."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR including Dr. ___ initial consultation 
noted dated ___ and Dr. ___ admission note 
dated ___. 
. 
Briefly, this is a ___ year old ___ woman, currently a 
student at ___, no known formal psychiatric 
history, who presented to ___ ED on a ___ after 
expressing suicidal ideation to her student counselor. 
. 
Per initial consultation note, although Ms. ___ is a student at 
___, she has not been attending classes for many 
months, spending the majority of her days alone in her dorm room 
and is at risk of losing her student visa. Patient reported a 
long history of abuse, describing her mother as the perpetrator, 
and described experiencing her mother in her head and body. Ms. 
___ reported being isolated, reporting being unable to sleep 
due to nightmares and flashbacks about her past and reported 
that she had been thinking of taking her life before the age of 
10. 
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints.  
. 
On my interview with Ms. ___, which was extremely limited as 
she did not wish to speak with her treatment team, she 
repeatedly asked to leave during the interview, "being here is 
making it worse, you can't do this to me... you're just making 
it worse." Patient would not state how she was feeling prior to 
coming to the hospital but admitted things were "not good" and 
that she had
been feeling lonely. Alluded to suicidal ideation but she would 
not discuss what this was nor would she discuss if there was any 
intent or plan. Denied AVH, paranoia on my examination. Refused 
to participate in review of systems. Refused to allow us to 
contact her family or friends but did ___ verbal permission to 
allow us to contact ___. 

 
Past Medical History:
PAST MEDICAL HISTORY: denies 
.
PAST PSYCH HISTORY:
- Diagnoses: no formal diagnoses 
- SA/SIB: "vague, denies cutting or burning, "I hurt myself in 
ways people don't see"
- Hospitalizations: none 
- Medication Trials: none 
- Therapist: ___ Student Counseling 
- Psychiatrist: none 

 
Social History:
___
Family History:
FAMILY PSYCH HISTORY:
Mother- depression
 
Physical ___:
ADMISSION PHYSICAL EXAM:
.
PHYSICAL EXAM: refused complete physical exam
VS:  Temp 98.7, BP 104/71, HR 65, RR 16, O2sat 100 RA 
General- young female, appears stated age, sitting with head 
down
and eyes closed
Skin- no signs of self-injury observed on exposed skin
HEENT- atraumatic, normocephalic
Neck and Back- deferred
Lungs- deferred
CV- deferred
Abdomen- deferred
Extremities- deferred
Neuro- 
CN: face symmetric, hearing intact
Speech: slow, quiet
Language: fluent ___
Motor: deferred
Sensation: deferred
Coordination: deferred
Gait/Romberg: normal
.
NEUROPSYCH EXAM:
  *Appearance: appears younger than stated age, thin but not 
malnourished, fair hygiene, sitting in chair in untied hospital 
gown with head down
Behavior: withdrawn, minimally expressive, speaks slowly and 
extremely quietly often with eyes closed, directs questioning/ 
does not initially answer interviewer's questions, calm, 
cooperative
  *Mood and Affect: flat affect, tearful
  *Thought process: linear
  *Thought Content: vague suicidal ideation, does not deny she 
would self-harm by taking pills, denies suicidal ideation with 
rationalization that she would not want the resulting negative 
attention for herself or others, denies HI, denies AH/VH
  *Judgment and Insight: limited, limited
  Cognition:
    *Attention: attentive to interview
    *Orientation: oriented to person, place, and time
    *Memory: intact short and long-term memory
    *Fund of knowledge: fair
    *Speech: quiet, slow
    *Language: fluent ___
================================
DISCHARGE PHYSICAL EXAM:
VS: T 98.6, BP 113/73, HR 91, RR 16, O2 96% RA
.
Appearance: Well-groomed Asian F, NAD, dressed in blue
sweatshirt, black jeans, and platform shoes 
Behavior: childlike manner, guarded, fair eye contact,
smiles/laughs inappropriately
Speech: very low volume, slow rate, lack of spontaneous speech
Mood: "I don't feel much"
Affect: constricted, odd 
Thought Process: linear, goal-directed
Thought Content: denies SI/HI/AVH, denies thoughts of self-harm
Insight/Judgment: limited/fair
.
Cognition:
Attention: Attentive to interview
Orientation: Awake, alert, and oriented x 3
Memory: Short and long term memory grossly intact
Language: Fluent ___
 
Pertinent Results:
___ 03:52PM   GLUCOSE-92 UREA N-8 CREAT-0.8 SODIUM-141 
POTASSIUM-3.5 CHLORIDE-105 TOTAL CO2-25 ANION GAP-15
___ 03:52PM   estGFR-Using this
___ 03:52PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:52PM   WBC-6.3 RBC-3.94 HGB-13.0 HCT-38.4 MCV-98 
MCH-33.0* MCHC-33.9 RDW-11.9 RDWSD-43.0
___ 03:52PM   NEUTS-58.9 ___ MONOS-4.9* EOS-0.8* 
BASOS-0.6 IM ___ AbsNeut-3.72 AbsLymp-2.18 AbsMono-0.31 
AbsEos-0.05 AbsBaso-0.04
___ 03:52PM   PLT COUNT-235
 
Brief Hospital Course:
This is a complicated case of a ___ year old ___ woman, 
currently a student at
___, no known formal psychiatric history, 
who presented to ___ ED on a ___ after expressing 
suicidal ideation to her student counselor. 
. 
Interview with patient on admission was extremely limited, given 
her reluctance to engage in the interview. However, patient 
admitted that things have not been going well and admitted to 
feeling lonely but denied SI, thoughts of self harm, AVH.
Mental status examination notable for very withdrawn young 
woman, with adequate hygiene and grooming, speech that is very 
low in volume, extremely poor eye contact, and affect that was 
notably blunted.
.
Diagnostically, the differential was very broad given my limited 
history and collateral includes mood disorder such as major 
depressive disorder or even bipolar (as I cannot rule out a 
prior manic history), prodromal presentation/underlying primary 
psychotic disorder, mood/psychotic disorder secondary to 
substance use (although she denied and tox screen was negative 
in the ED) or underlying medical condition (although less likely 
given young age and unremarkable medical work up thus far). 
. 
#. Legal/Safety: Patient was admitted to ___ on a 
___, upon admission she initially refused to sign a 
conditional voluntary agreement but later signed in on ___ 
with a 3 day notice. After discussion of the risks and benefits, 
she rescinded the 3 day notice on ___, but at that time we had 
been able to obtain collateral from her mother, who was in 
agreement with discharge back home to ___. 
Of note, she maintained her safety throughout her 
hospitalization on 15 minute checks and did not require physical 
or chemical restraints. 
. 
#. Unspecified mood disorder: 
- Throughout the hospitalization, patient was guarded and only 
partially cooperative with the treatment team. She was unwilling 
to answer many questions regarding her history and symptoms. She 
endorses multiple depressive symptoms including insmonia, 
anhedonia, feelings of worthlessness and hopelessness. She 
reported profound ambivalence about her life and social 
situation regarding school and her visa though denied active 
suicidal ideation or plan to the primary team. Her exam was 
notable for extremely soft volume of speech, low rate of speech, 
and lack of spontaneous speech. She was also noted to have an 
odd and childlike affect and to often be laughing/smiling 
inappropriately. Patient consistently denied auditory/visual 
hallucinations, paranoia, suicidal ideation or thoughts of self 
harm. She also denied history of manic symptoms and substance 
use. Her presentation was concerning for underlying mood 
disorder vs. psychotic disorder vs. decompensated character 
pathology; unfortunately, my differential diagnosis remains 
broad at time of discharge. 
.
During the hospitalization, patient was started on Risperdal 0.5 
mg at night due to concern for underlying psychotic process and 
patient's complaint of insomnia. Patient reported good response 
to this medication without side effects. She was also started on 
Zoloft which was uptitrated to 50 mg daily, which she tolerated 
without complaints of side effects. She was offered Ativan 0.5 
mg BID PRN which she used rarely. 
.
With significant support, Ms. ___ agreed to allow us to contact 
her mother in ___ to aid with disposition and safety planning. 
During this conversation, patient's affect was noted to improve 
significantly and she became more engaged, agreeing to return 
home with her mother, who was in agreement and supportive of 
this discharge plan. Given her lack of social supports here and 
this reasonable discharge plan, as well as Ms. ___ expressed 
and consistent desire to leave the hospital, she was discharged 
home with an appointment with ___ with 
the ultimate plan for her to return home with her mother. 
.
#. Medical: no acute issues during this hospitalization 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  LORazepam 0.5 mg PO BID:PRN anxiety, agitation, imsomnia 
RX *lorazepam [Ativan] 0.5 mg 1 tablet by mouth twice per day as 
needed Disp #*14 Tablet Refills:*0 
2.  RisperiDONE 0.5 mg PO QHS 
RX *risperidone 0.5 mg 1 tablet(s) by mouth every night Disp 
#*14 Tablet Refills:*0 
3.  Sertraline 50 mg PO DAILY 
RX *sertraline [Zoloft] 50 mg 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder

 
Discharge Condition:
VS: T 98.6, BP 113/73, HR 91, RR 16, O2 96% RA

Appearance: Well-groomed Asian F, NAD, dressed in blue
sweatshirt, black jeans, and platform shoes 
Behavior: childlike manner, guarded, fair eye contact,
smiles/laughs inappropriately
Speech: very low volume, slow rate, lack of spontaneous speech
Mood: 'I don't feel much'
Affect: constricted, odd 
Thought Process: linear, goal-directed
Thought Content: denies SI/HI/AVH, denies thoughts of self-harm
Insight/Judgment: limited/fair

Cognition:
Attention: Attentive to interview
Orientation: Awake, alert, and oriented x 3
Memory: Short and long term memory grossly intact
Language: Fluent ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___